US04891447
To a stirred suspension of sodium hydride (46.8 g of a 60% oil dispersion, 1.15 mol) in tetrahydrofuran (240 mL) was added 2-methylhex-5-en-2-ol (120 g, 1.05 mol) in tetrahydrofuran (240 mL). Dimethylsulfate (75 mL, 0.79 mol) in tetrahydrofuran (120 mL) was added to the cooled (0° C.) mixture. The mixture was heated at reflux for 6 hours. Workup yielded 2-methoxy-2-methylhex-5-ene, bp40 53°-58° C. (51.36 g); NMR(CDCl3)δ1.1(s,6H), 1.5-1.6(m,2H), 2.0-2.2(m,2H), 3.2(s,3H), 4.8-5.1(m,2H), 5.7-6.0(m,1H); IR(neat) 2960, 2925, 1640, 1460, 1360, 1300, 1085 cm-1 ; MS(m/e) 43, 55, 73, 81, 95, 97, 113, 114.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-methylhex-5-en-2-ol | 1.05 mol, 120 g | CC(C)(CCC=C)O | C7H14O
reactant | Dimethylsulfate | 0.79 mol, 75 mL | COS(=O)(=O)OC | C2H6O4S
solvent | tetrahydrofuran | 240 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 240 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 2-methoxy-2-methylhex-5-ene | COC(C)(CCC=C)C | C8H16O
